US07977340B2
Step-1. Dimethyl-pyridin-2-yl-amine
To an ice-cold solution of 2-aminopyridine (5.0 g, 53.12 mmol) in acetonitrile (150.0 mL) was added sequentially water (33.0 mL) followed by formaldehyde (37% aq. solution, 50.0 mL) and sodium cyanoborohydride (10.0 g, 159.13 mmol). The resulting reaction mixture was stirred at 0° C. for 10 min followed by drop wise addition of acetic acid (12.0 mL). The reaction mixture was then allowed to stir at room temperature for 15 h. After the completion of the reaction (TLC monitoring), the solvent was evaporated and the residue was treated with aqueous NaOH (2N, 50.0 mL) and extracted with hexane (3×50.0 mL). The combined organics was washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified over silica gel (100-200 M, 2% EtOAc-Hexane) to get the desired compound (3.50 g, 55%).

reactant | 2-aminopyridine | 53.12 mmol, 5.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | water | 33.0 mL | O | H2O
reactant | formaldehyde | 50.0 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 159.13 mmol, 10.0 g | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 150.0 mL | C(C)#N | C2H3N
solvent | acetic acid | 12.0 mL | C(C)(=O)O | C2H4O2
product | Dimethyl-pyridin-2-yl-amine | 3.50 g, 55% | CN(C1=NC=CC=C1)C | C7H10N2
